US06982348B2
2) 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one
A solution of methyl 6-methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene-6-carboxylate (35.13 g, 151.2 mmol) and conc. hydrochloric acid (50 ml) in acetic acid (100 ml) was stirred overnight at 110° C. The reaction solution was concentrated, diluted with water and extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to give the objective substance.

reactant | methyl 6-methyl-5-oxo-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene-6-carboxylate | 151.2 mmol, 35.13 g | CC1(C(C2=C(CCC1)C=CC=C2)=O)C(=O)OC | C14H16O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-methyl-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-5-one | CC1C(C2=C(CCC1)C=CC=C2)=O | C12H14O
